US06177443B1
Preparation of 4-(pyridin-4-yl)4,5,6,7-tetrahydro-thieno[3,2-c]pyridine, NNC 60-0372.
2-(2-Thienyl)-ethylamine (2 g, 15.7 mmol) 4-pyridylaldehyde (1.68 g, 15.7 mmol), triethylamine (1 ml) and ethanol (15 ml) were mixed and the reaction mixture was stirred at room temperature for 15 hours, then evaporated in vacuo. The crude oil was added trifluoroacetic acid (75 m) at once (strongly exothermic reaction). The reaction mixture was stirred at room temperature for 0.5 hour, then evaporated in vacuo. The residue was dissolved in dichloromethane (150 ml) and washed with 2 N sodium hydroxide (100 ml). The aqueous phase was extracted with dichloromethane (3×50 ml). The combined organic phases were dried with MgSO4, filtered and evaporated in vacuo to give an oil (3.21 g) which was crystallised from a mixture of dichloromethane and hexane to afford 2.4 g (71%) of the title compound.

reactant | 2-(2-Thienyl)-ethylamine | 15.7 mmol, 2 g | S1C(=CC=C1)CCN | C6H9NS
reactant | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
reactant | ethanol | 15 ml | C(C)O | C2H6O
product | 4-(pyridin-4-yl)4,5,6,7-tetrahydro-thieno[3,2-c]pyridine | 3.21 g | N1=CC=C(C=C1)C1NCCC2=C1C=CS2 | C12H12N2S
